US03932384
To a chromium trioxide - pyridine complex freshly prepared from 28 g of chromium trioxide and 280 ml of anhydrous pyridine is added dropwise a solution of 21 g of 10-benzyloxy-3,4-dimethoxy-6-methyl-5,6,7,8,13,14-hexahydrodibenz[c,g]azecine in 140 ml of pyridine at 10° - 15°C over a period of 35 minutes, and the mixture is allowed to stand at the same temperature for 2 hours and then at room temperature for 15 hours. The mixture is then diluted with 600 ml of ethyl acetate, stirred well, and filtered to remove the inorganic precipitate. The filtrate is passed through a column of alumina and celite (kiesel-guhr) and evaporated to dryness. The resulting residue (14.3 g) is dissolved in 286 ml of methanol, treated with 7 g of sodium borohydride, and chromatographed on 140 g of silica gel. The benzene - ethyl acetate (10 : 1) elution (2.45 g) is recrystallized from methylene chloride - ether to yield 2.11 g of 10-benzyloxy-3,4-dimethoxy-6-formyl-5,6,7,8,13,14-hexahydrodibenz[c,g]azecine as colorless needles having mp. 140° - 141°C. IR: νmaxCHCl 3 1654 cm-1. Anal. Calcd. for C27H29O4N: C, 75.15%; H, 6.77%; N, 3.25%. Found: C, 75.20%; H, 7.02%; N, 3.23%.

reactant | 10-benzyloxy-3,4-dimethoxy-6-methyl-5,6,7,8,13,14-hexahydrodibenz[c,g]azecine | 21 g | C(C1=CC=CC=C1)OC1=CC2=C(CCC3=C(CN(CC2)C)C(=C(C=C3)OC)OC)C=C1 | C27H31NO3
reactant | ethyl acetate | 600 ml | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 140 ml | N1=CC=CC=C1 | C5H5N
catalyst | chromium trioxide | 28 g | [O-2].[O-2].[O-2].[Cr+6]
solvent | pyridine | 280 ml | N1=CC=CC=C1 | C5H5N
product | 10-benzyloxy-3,4-dimethoxy-6-formyl-5,6,7,8,13,14-hexahydrodibenz[c,g]azecine | 2.11 g | C(C1=CC=CC=C1)OC1=CC2=C(CCC3=C(CN(CC2)C=O)C(=C(C=C3)OC)OC)C=C1 | C27H29NO4
